* PWL waveform for A
VA A 0 PWL(
  +0.0n 0.0V
+  30.0n 0.0V
+  200.0n 0.0V
+  230.0n 3.3V
+  400.0n 3.3V
+  430.0n 0.0V
+  600.0n 0.0V
+  630.0n 0.0V
+  800.0n 0.0V
+  830.0n 0.0V
+  1000.0n 0.0V
+  1030.0n 3.3V
+  1200.0n 3.3V
+  1230.0n 0.0V
+  1400.0n 0.0V
+  1430.0n 0.0V
+  1600.0n 0.0V
+  1630.0n 0.0V
+  1800.0n 0.0V
+  1830.0n 3.3V
+  2000.0n 3.3V
+  2030.0n 0.0V
+  2200.0n 0.0V
+  2230.0n 0.0V
+  2400.0n 0.0V
+  2430.0n 0.0V
+  2600.0n 0.0V
+  2630.0n 3.3V
+  2800.0n 3.3V
+  2830.0n 3.3V
+  3000.0n 3.3V
+  3030.0n 0.0V
+  3200.0n 0.0V
+  3230.0n 3.3V
+  3400.0n 3.3V
+  3430.0n 3.3V
+  3600.0n 3.3V
+  3630.0n 3.3V
+  3800.0n 3.3V
+  3830.0n 0.0V
+  4000.0n 0.0V
+  4030.0n 3.3V
+  4200.0n 3.3V
+  4230.0n 3.3V
+  4400.0n 3.3V
+  4430.0n 3.3V
+  4600.0n 3.3V
+  4630.0n 0.0V
+  4800.0n 0.0V
+  4830.0n 3.3V
+  5000.0n 3.3V
+  5030.0n 3.3V
+  5200.0n 3.3V
+  5230.0n 0.0V
+  5400.0n 0.0V
+  5430.0n 3.3V
+  5600.0n 3.3V
+  5630.0n 0.0V
+  5800.0n 0.0V
+  5830.0n 0.0V
+  6000.0n 0.0V
+  6030.0n 0.0V
+  6200.0n 0.0V
+  6230.0n 3.3V
+  6400.0n 3.3V
+  6430.0n 0.0V
+  6600.0n 0.0V
+  6630.0n 0.0V
+  6800.0n 0.0V
+  6830.0n 0.0V
+  7000.0n 0.0V
+  7030.0n 3.3V
+  7200.0n 3.3V
+  7230.0n 3.3V
+  7400.0n 3.3V
+  7430.0n 0.0V
+  7600.0n 0.0V
+  7630.0n 3.3V
+  7800.0n 3.3V
+  7830.0n 3.3V
+  8000.0n 3.3V
+  8030.0n 3.3V
+  8200.0n 3.3V
+  8230.0n 0.0V
+  8400.0n 0.0V
+  8430.0n 3.3V
+  8600.0n 3.3V
+  8630.0n 3.3V
+  8800.0n 3.3V
+  8830.0n 0.0V
+  9000.0n 0.0V
+  9030.0n 3.3V
+  9200.0n 3.3V
+  9230.0n 0.0V
+  9400.0n 0.0V
+  9430.0n 0.0V
+  9600.0n 0.0V
+  9630.0n 0.0V
+  9800.0n 0.0V
+  9830.0n 3.3V
+  10000.0n 3.3V
+  10030.0n 3.3V
+  10200.0n 3.3V
+  10230.0n 0.0V
+  10400.0n 0.0V
+  10430.0n 3.3V
+  10600.0n 3.3V
+  10630.0n 3.3V
+  10800.0n 3.3V
+  10830.0n 0.0V
+  11000.0n 0.0V
+  11030.0n 3.3V
+  11200.0n 3.3V
+  11230.0n 0.0V
+)
* PWL waveform for B
VB B 0 PWL(
  +0.0n 0.0V
+  30.0n 0.0V
+  200.0n 0.0V
+  230.0n 0.0V
+  400.0n 0.0V
+  430.0n 0.0V
+  600.0n 0.0V
+  630.0n 3.3V
+  800.0n 3.3V
+  830.0n 0.0V
+  1000.0n 0.0V
+  1030.0n 3.3V
+  1200.0n 3.3V
+  1230.0n 0.0V
+  1400.0n 0.0V
+  1430.0n 0.0V
+  1600.0n 0.0V
+  1630.0n 0.0V
+  1800.0n 0.0V
+  1830.0n 0.0V
+  2000.0n 0.0V
+  2030.0n 0.0V
+  2200.0n 0.0V
+  2230.0n 3.3V
+  2400.0n 3.3V
+  2430.0n 0.0V
+  2600.0n 0.0V
+  2630.0n 3.3V
+  2800.0n 3.3V
+  2830.0n 0.0V
+  3000.0n 0.0V
+  3030.0n 3.3V
+  3200.0n 3.3V
+  3230.0n 0.0V
+  3400.0n 0.0V
+  3430.0n 3.3V
+  3600.0n 3.3V
+  3630.0n 0.0V
+  3800.0n 0.0V
+  3830.0n 0.0V
+  4000.0n 0.0V
+  4030.0n 0.0V
+  4200.0n 0.0V
+  4230.0n 0.0V
+  4400.0n 0.0V
+  4430.0n 0.0V
+  4600.0n 0.0V
+  4630.0n 3.3V
+  4800.0n 3.3V
+  4830.0n 0.0V
+  5000.0n 0.0V
+  5030.0n 3.3V
+  5200.0n 3.3V
+  5230.0n 3.3V
+  5400.0n 3.3V
+  5430.0n 3.3V
+  5600.0n 3.3V
+  5630.0n 3.3V
+  5800.0n 3.3V
+  5830.0n 0.0V
+  6000.0n 0.0V
+  6030.0n 3.3V
+  6200.0n 3.3V
+  6230.0n 0.0V
+  6400.0n 0.0V
+  6430.0n 3.3V
+  6600.0n 3.3V
+  6630.0n 3.3V
+  6800.0n 3.3V
+  6830.0n 3.3V
+  7000.0n 3.3V
+  7030.0n 3.3V
+  7200.0n 3.3V
+  7230.0n 3.3V
+  7400.0n 3.3V
+  7430.0n 0.0V
+  7600.0n 0.0V
+  7630.0n 3.3V
+  7800.0n 3.3V
+  7830.0n 0.0V
+  8000.0n 0.0V
+  8030.0n 3.3V
+  8200.0n 3.3V
+  8230.0n 3.3V
+  8400.0n 3.3V
+  8430.0n 3.3V
+  8600.0n 3.3V
+  8630.0n 3.3V
+  8800.0n 3.3V
+  8830.0n 0.0V
+  9000.0n 0.0V
+  9030.0n 0.0V
+  9200.0n 0.0V
+  9230.0n 0.0V
+  9400.0n 0.0V
+  9430.0n 3.3V
+  9600.0n 3.3V
+  9630.0n 0.0V
+  9800.0n 0.0V
+  9830.0n 3.3V
+  10000.0n 3.3V
+  10030.0n 0.0V
+  10200.0n 0.0V
+  10230.0n 3.3V
+  10400.0n 3.3V
+  10430.0n 0.0V
+  10600.0n 0.0V
+  10630.0n 3.3V
+  10800.0n 3.3V
+  10830.0n 3.3V
+  11000.0n 3.3V
+  11030.0n 3.3V
+  11200.0n 3.3V
+  11230.0n 0.0V
+)
* PWL waveform for C
VC C 0 PWL(
  +0.0n 0.0V
+  30.0n 0.0V
+  200.0n 0.0V
+  230.0n 0.0V
+  400.0n 0.0V
+  430.0n 0.0V
+  600.0n 0.0V
+  630.0n 0.0V
+  800.0n 0.0V
+  830.0n 0.0V
+  1000.0n 0.0V
+  1030.0n 0.0V
+  1200.0n 0.0V
+  1230.0n 0.0V
+  1400.0n 0.0V
+  1430.0n 3.3V
+  1600.0n 3.3V
+  1630.0n 0.0V
+  1800.0n 0.0V
+  1830.0n 3.3V
+  2000.0n 3.3V
+  2030.0n 0.0V
+  2200.0n 0.0V
+  2230.0n 3.3V
+  2400.0n 3.3V
+  2430.0n 0.0V
+  2600.0n 0.0V
+  2630.0n 3.3V
+  2800.0n 3.3V
+  2830.0n 0.0V
+  3000.0n 0.0V
+  3030.0n 0.0V
+  3200.0n 0.0V
+  3230.0n 0.0V
+  3400.0n 0.0V
+  3430.0n 0.0V
+  3600.0n 0.0V
+  3630.0n 0.0V
+  3800.0n 0.0V
+  3830.0n 3.3V
+  4000.0n 3.3V
+  4030.0n 0.0V
+  4200.0n 0.0V
+  4230.0n 3.3V
+  4400.0n 3.3V
+  4430.0n 0.0V
+  4600.0n 0.0V
+  4630.0n 3.3V
+  4800.0n 3.3V
+  4830.0n 0.0V
+  5000.0n 0.0V
+  5030.0n 3.3V
+  5200.0n 3.3V
+  5230.0n 0.0V
+  5400.0n 0.0V
+  5430.0n 0.0V
+  5600.0n 0.0V
+  5630.0n 0.0V
+  5800.0n 0.0V
+  5830.0n 3.3V
+  6000.0n 3.3V
+  6030.0n 0.0V
+  6200.0n 0.0V
+  6230.0n 3.3V
+  6400.0n 3.3V
+  6430.0n 0.0V
+  6600.0n 0.0V
+  6630.0n 3.3V
+  6800.0n 3.3V
+  6830.0n 0.0V
+  7000.0n 0.0V
+  7030.0n 3.3V
+  7200.0n 3.3V
+  7230.0n 0.0V
+  7400.0n 0.0V
+  7430.0n 3.3V
+  7600.0n 3.3V
+  7630.0n 0.0V
+  7800.0n 0.0V
+  7830.0n 3.3V
+  8000.0n 3.3V
+  8030.0n 0.0V
+  8200.0n 0.0V
+  8230.0n 3.3V
+  8400.0n 3.3V
+  8430.0n 0.0V
+  8600.0n 0.0V
+  8630.0n 3.3V
+  8800.0n 3.3V
+  8830.0n 3.3V
+  9000.0n 3.3V
+  9030.0n 3.3V
+  9200.0n 3.3V
+  9230.0n 3.3V
+  9400.0n 3.3V
+  9430.0n 3.3V
+  9600.0n 3.3V
+  9630.0n 3.3V
+  9800.0n 3.3V
+  9830.0n 3.3V
+  10000.0n 3.3V
+  10030.0n 3.3V
+  10200.0n 3.3V
+  10230.0n 3.3V
+  10400.0n 3.3V
+  10430.0n 3.3V
+  10600.0n 3.3V
+  10630.0n 3.3V
+  10800.0n 3.3V
+  10830.0n 3.3V
+  11000.0n 3.3V
+  11030.0n 3.3V
+  11200.0n 3.3V
+  11230.0n 0.0V
+)
